US05068390
Preparation of Ethyl 2-(p-chlorophenyl)- 4,5-bis (trifluoromethyl)pyrrole-3-carboxylate
Triethylamine (1.1 g, 0.011 mol) is added dropwise to a solution of 4-(p-chlorophenyl)-2-(trifluoromethyl)-2-oxazolin-5-one (2.64 g, 0.01 mol) and acetonitrile (25 mL). After stirring for 10 minutes at room temperature, a solution of ethyl 2-bromo-4,4,4-trifluorocrotonate (2.47 g, 0.01 mol) and acetonitrile (1 mL) is added dropwise to the reaction mixture. The reaction mixture is stirred at room temperature for 2 hours then poured into water and extracted with ethyl acetate. The combined organic extracts are washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give an orange oil which solidifies upon standing. Trituration with hexanes gives the title product as a yellow solid (2.36 g, 61.3%, mp 138°-140° C.).

reactant | Triethylamine | 0.011 mol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | 4-(p-chlorophenyl)-2-(trifluoromethyl)-2-oxazolin-5-one | 0.01 mol, 2.64 g | ClC1=CC=C(C=C1)C1N=C(OC1=O)C(F)(F)F | C10H5ClF3NO2
reactant | acetonitrile | 25 mL | C(C)#N | C2H3N
reactant | ethyl 2-bromo-4,4,4-trifluorocrotonate | 0.01 mol, 2.47 g | Br/C(/C(=O)OCC)=C\C(F)(F)F | C6H6BrF3O2
reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | Ethyl 2-(p-chlorophenyl)- 4,5-bis (trifluoromethyl)pyrrole-3-carboxylate | 2.36 g, 61.3% | ClC1=CC=C(C=C1)C=1NC(=C(C1C(=O)OCC)C(F)(F)F)C(F)(F)F | C15H10ClF6NO2
